US07307113B2
Following the teachings of Beckerbauer et al, op.cit., U.S. Pat. No. 5,958,822, (CH3O)3SiCH2CH2CF2CF2OCF2CF2SO2F was prepared as follows. To a stirred mixture of 85 g (0.2 mol) of ICF2CF2OCF2CF2SO2F available from the Shanghai Institute of Organic Chemistry, Shanghai, China, and 32 g (0.215 mol) of (CH3O)3SiCH═CH2 (Aldrich Chemical Company) was added 0.5 g of benzoyl peroxide (Aldrich) at 90 to 95° C. in N2 and the resulting mixture was stirred at 95° C. for 40 minutes. An additional 0.5 g of benzoyl peroxide was added and the mixture was stirred for 4 hours more and then evacuated to remove excess starting materials. After the mixture was cooled to room temperature, 59 g of (C4H9)3SnH was slowly added and the mixture was stirred at room temperature overnight and distilled to give 60.9 g of liquid (CH3O)3SiCH2CH2CF2CF2OCF2CF2SO2F having a purity of greater than 99% and boiling point of 55° C./3 mm Hg. 19F NMR(CDCl3): +44.9 (s, 1F), −82.6 (m, 2F), −87.4 (m, 2F), −112.6 (s, 2F), −120.7 (t, J=15 Hz, 2F), 1HNMR: 3.60 (s, 9H), 2.10 (m, 2H), 0.70 (m, 2H).

reactant | ICF2CF2OCF2CF2SO2F | 0.2 mol, 85 g | IC(F)(F)C(F)(F)OC(F)(F)C(F)(F)S(=O)(=O)F | C4F9IO3S
reactant | (CH3O)3SiCH═CH2 | 0.215 mol, 32 g | [Si](OC)(OC)(OC)C=C | C5H12O3Si
reactant | benzoyl peroxide | 0.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | benzoyl peroxide | 0.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | N2 | N#N | N2
product | (CH3O)3SiCH2CH2CF2CF2OCF2CF2SO2F | [Si](OC)(OC)(OC)CCC(F)(F)C(F)(F)OC(F)(F)C(F)(F)S(=O)(=O)F | C9H13F9O6SSi
